US05665718
10 g (29.7 mmol) of (S)-8-trifluoromethyl-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid were suspended in 50 ml of N,N-dimethylformamide and treated portionwise at room temperature with 5.1 g (31.2 mmol) of 1,1'-carbonyldiimidazole. After completion of the CO2 evolution the clear brown solution was stirred at 50° for 20 min., cooled and treated dropwise with 8 ml of conc. ammonia at a temperature below 150 within about 15'. After stirring for 40 minutes the suspension obtained was poured into 300 ml of ice-water, whereupon the mixture was stirred at room temperature for 20', filtered and rinsed with a small amount of water. After drying there were obtained 7.51 g (75%) of (S)-8-trifluoromethyl-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide of m.p. >300°.

reactant | (S)-8-trifluoromethyl-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 29.7 mmol, 10 g | FC(C1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CC1)=O)(F)F | C15H10F3N3O3
reactant | 1,1'-carbonyldiimidazole | 31.2 mmol, 5.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | ammonia | 8 ml | N | H3N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (S)-8-trifluoromethyl-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 7.51 g, 75% | FC(C1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N)CC1)=O)(F)F | C15H11F3N4O2
